US04762829
N-Methyl-N-(3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoyl)-ethanolamin
The procedure of Example 1 was repeated except that 6.1 g of 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid and 2.4 ml of N-methylethanolamine were used. 6.6 g (yield 92%) of the title compound was obtained as a colorless oil.

reactant | 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid | 6.1 g | CC(=CC(=O)O)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H32O2
reactant | N-methylethanolamine | 2.4 ml | CNCCO | C3H9NO
product | N-Methyl-N-(3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoyl)-ethanolamin | 6.6 g, yield 92% | CN(CCO)C(C=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)=O | C23H39NO2
